US07667041B2
Synthesis of 3-fluoro-4-(1H-imidazol-1-yl)-benzaldehyde
Potassium carbonate (1.71 g) and imidazole (847 mg) were added to a DMF (20 mL) solution of 3,4-difluorobenzaldehyde (2.0 g). The reaction solution was agitated at 100° C. overnight, water and ethyl acetate were added to the reaction solution, and the organic layer was partitioned. After the obtained organic layer was washed with a saturated saline solution, it was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (elution solvent:hexane:ethyl acetate=1:1→ethyl acetate), and 1.11 g of the title compound was obtained. The physical properties of the compound are as follows.

reactant | Potassium carbonate | 1.71 g | C([O-])([O-])=O.[K+].[K+]
reactant | imidazole | 847 mg | N1C=NC=C1 | C3H4N2
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | 3,4-difluorobenzaldehyde | 2.0 g | FC=1C=C(C=O)C=CC1F | C7H4F2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-fluoro-4-(1H-imidazol-1-yl)-benzaldehyde | 1.11 g | FC=1C=C(C=O)C=CC1N1C=NC=C1 | C10H7FN2O
